US07501410B2
2-Isopropyl-7-(2-methanesulfinyl-ethoxy)-4-(5-methyl-1H-pyrazol-3-ylamino)-2H-phthalazin-1-one
To a solution of 2-isopropyl-4-(5-methyl-1H-pyrazol-3-ylamino)-7-(2-methylsulfanyl-ethoxy)-2H-phthalazin-1-one (0.077 g, 0.23 mmol) in DCM (2 ml), was added m-chloro-peroxybenzoic acid (0.040 g, 0.23 mmol) portion wise. The solution was stirred at RT for 1 hour. After this time LC-MS indicated complete consumption of starting material and the solvent was removed under vacuum. Preparative thin layer chromatography (elution: 50% EtOAc, 50% EtOH) afforded the title compound (0.015 g, 14% yield) as a pale yellow solid.

reactant | 2-isopropyl-4-(5-methyl-1H-pyrazol-3-ylamino)-7-(2-methylsulfanyl-ethoxy)-2H-phthalazin-1-one | 0.23 mmol, 0.077 g | C(C)(C)N1C(C2=CC(=CC=C2C(=N1)NC1=NNC(=C1)C)OCCSC)=O | C18H23N5O2S
reactant | m-chloro-peroxybenzoic acid | 0.23 mmol, 0.040 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | 2-Isopropyl-7-(2-methanesulfinyl-ethoxy)-4-(5-methyl-1H-pyrazol-3-ylamino)-2H-phthalazin-1-one | 0.015 g, 14% yield | C(C)(C)N1C(C2=CC(=CC=C2C(=N1)NC1=NNC(=C1)C)OCCS(=O)C)=O | C18H23N5O3S
